US07189851B2
C. 4-[2-[(2S)-1-(tert-butoxycarbonyl)pyrrolidinyl]-3,5-bis(ethoxycarbonyl)-6-(3,3,3-trifluoropropyl)-1,4-dihydro-4-pyridinyl]benzoic acid
To a stirred solution of tert-Butyl (2S)-2-(3-ethoxy-3-oxopropanoyl)-1-pyrrolidinecarboxylate (1.35 g, 4.74 mmol) in 30 mL of toluene, ethyl (2Z)-3-amino-6,6,6-trifluoro-2-hexenoate (1.0 g, 4.74 mmol) was added followed by 4-formylbenzoic acid (0.711 g, 4.74 mmol) and piperidine (0.202 g, 2.37 mmol). The reaction was allowed to reflux for 3 h. The crude mixture was concentrated and carried on without purification.

reactant | tert-Butyl (2S)-2-(3-ethoxy-3-oxopropanoyl)-1-pyrrolidinecarboxylate | 4.74 mmol, 1.35 g | C(C)OC(CC(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C14H23NO5
reactant | ethyl (2Z)-3-amino-6,6,6-trifluoro-2-hexenoate | 4.74 mmol, 1.0 g | N\C(=C/C(=O)OCC)\CCC(F)(F)F | C8H12F3NO2
reactant | 4-formylbenzoic acid | 4.74 mmol, 0.711 g | C(=O)C1=CC=C(C(=O)O)C=C1 | C8H6O3
reactant | piperidine | 2.37 mmol, 0.202 g | N1CCCCC1 | C5H11N
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[2-[(2S)-1-(tert-butoxycarbonyl)pyrrolidinyl]-3,5-bis(ethoxycarbonyl)-6-(3,3,3-trifluoropropyl)-1,4-dihydro-4-pyridinyl]benzoic acid | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C=1NC(=C(C(C1C(=O)OCC)C1=CC=C(C(=O)O)C=C1)C(=O)OCC)CCC(F)(F)F | C30H37F3N2O8
